US07312218B2
1-(Benzylidene-amino)-3-[4-(2-dimethylaminomethyl-imidazol-1-yl)-2-fluoro-phenyl]-tetrahydro-pyrimidin-2-one
Previously prepared 1-[4-(2-dimethylaminomethyl-imidazol-1-yl)-2-fluoro-phenyl]-tetrahydro-pyrimidin-2-one, (475.5 mg; 1.5 mmol) was dissolved in 10 mL of 10% H2SO4 solution. The mixture was then cooled to 0° C. and 103.5 mg, (1.5 mmol) of NaNO2 were added portionwise. After 3 h at 0° C., 245.2 mg (3.75 mmol) of Zn dust were added in small portions. Bubbling occurred immediately. After the end of intense bubbling, the cooling bath was removed, and the mixture stirred 1 h at the room temperature. The mixture was filtered through Celite® 545 to remove suspensions. 143.3 mg (1.35 mmol) of benzaldehyde were then introduced, and the reaction mixture stirred for 2 h. The pH of the mixture was made neutral with NaOH prior to extractions with CH2Cl2. The organic phases were dried over MgSO4 and concentrated to yield 364.3 mg of the target material as a viscous oil. An analytically pure sample was obtained after purification on an IST Isolute Flash Cartridge (loading with CH2Cl2 and eluting with 5% MeOH/CH2Cl2). 1H NMR (400 MHz, CDCl3)δ 8.11 (s, 1H), 7.76 (m, 2H), 7.62 (dd, 1H), 7.49 (t, 1H), 7.3-7.4 (m, 4H), 7.11 (d, 2H), 3.89 (t, 2H), 3.73 (t, 2H), 3.42 (s, 2H), 2.41 (m, 2H), 2.3 (s, 6H), ppm. LC-MS (ESI) 421.1 [M+H]+, tR=3.207 min (Shimadzu Phenomenex S5 ODS 4.6×50 mm Luna flow rate 2.5 ml/mn; detection at 220 nM; Gradient elution 0% to 100% B over 8 min; (A=10% MeOH, 90% H2O, 0.2% H3PO4& B=90% MeOH, 10% H2O, 0.2% H3PO4). HRMS (ESI) m/z calcd for C23H26N6OF [M+H]+ 421.2152. found 421.2147.

reactant | 1-[4-(2-dimethylaminomethyl-imidazol-1-yl)-2-fluoro-phenyl]-tetrahydro-pyrimidin-2-one | CN(C)CC=1N(C=CN1)C1=CC(=C(C=C1)N1C(NCCC1)=O)F | C16H20FN5O
reactant | NaNO2 | 1.5 mmol | N(=O)[O-].[Na+]
reactant | benzaldehyde | 1.35 mmol, 143.3 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
catalyst | Zn | 3.75 mmol, 245.2 mg | [Zn] | Zn
product | 1-(Benzylidene-amino)-3-[4-(2-dimethylaminomethyl-imidazol-1-yl)-2-fluoro-phenyl]-tetrahydro-pyrimidin-2-one | 364.3 mg | C(C1=CC=CC=C1)=NN1C(N(CCC1)C1=C(C=C(C=C1)N1C(=NC=C1)CN(C)C)F)=O | C23H25FN6O
